US07875645B2
b) 2-Ethyl-6-methoxy-benzaldehyde
A solution of 1.0 g (E)-[1-(2-ethyl-6-methoxy-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine in 1 ml THF and 0.19 ml 4N HCl was heated to reflux for 1 hour then cooled to ambient temperature and poured onto a 1N aqueous NaOH solution. The aqueous phase was extracted with ethyl acetate, the combined extracts washed with brine, dried over Na2SO4, filtered and evaporated. The residue was purified by flash-chromatography on silica gel with a heptane/ethyl acetate gradient as eluent: 0.50 g 2-ethyl-6-methoxy-benzaldehyde as colourless oil: MS (EI): 261.2 (M+.), 218.2 ((M-((CH3)2CH))+., 100%).

reactant | (E)-[1-(2-ethyl-6-methoxy-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine | 1.0 g | C(C)C1=C(C(=CC=C1)OC)\C=N\C(C(C)C)C(C)C | C17H27NO
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | HCl | 4N, 0.19 ml | Cl | ClH
product | 2-Ethyl-6-methoxy-benzaldehyde | C(C)C1=C(C=O)C(=CC=C1)OC | C10H12O2
